US07977344B2
N2-Butyl-8-(methyloxy)-9-{2-[(3R)-tetrahydro-3-furanyl]ethyl}-9H-Purine-2,6-diamine
N2-Butyl-8-(methyloxy)-3H-purine-2,6-diamine (157 mg, 0.447 mmol) was heated in dry DMF (3 ml) with potassium carbonate (232 mg, 1.675 mmol) at 60° C. for one hour. (3S)-3-(2-Bromoethyl)tetrahydrofuran (100 mg, 0.558 mmol) in dry DMF (2 ml) was added and the mixture stirred and heated to 60° C. under nitrogen for 4 hours. The mixture was cooled to room temperature, quenched into water (40 ml) and extracted with ethyl acetate (3×25 ml). The organic extracts were combined, dried by passage through a hydrophobic frit and concentrated under vacuum. The residue was dissolved in 1:1 MeOH:DMSO and purified by mass directed autopreparation. The desired fractions were combined and concentrated using a nitrogen blowdown unit to give the title compound as a white solid (119 mg).

reactant | N2-Butyl-8-(methyloxy)-3H-purine-2,6-diamine | 0.447 mmol, 157 mg | C(CCC)NC1=NC(=C2N=C(N=C2N1)OC)N | C10H16N6O
reactant | potassium carbonate | 1.675 mmol, 232 mg | C([O-])([O-])=O.[K+].[K+]
reactant | (3S)-3-(2-Bromoethyl)tetrahydrofuran | 0.558 mmol, 100 mg | BrCC[C@H]1COCC1 | C6H11BrO
solvent | DMF | 3 ml | CN(C)C=O | C3H7NO
solvent | DMF | 2 ml | CN(C)C=O | C3H7NO
product | N2-Butyl-8-(methyloxy)-9-{2-[(3R)-tetrahydro-3-furanyl]ethyl}-9H-Purine-2,6-diamine | 119 mg | C(CCC)NC1=NC(=C2N=C(N(C2=N1)CC[C@H]1COCC1)OC)N | C16H26N6O2
